US04910317
A slurry of 3-(1-methylethoxy)-5-methoxy-6(phenylmethoxy)-N-1H-tetrazol-5-yl-benzo[b]thiophene2-carboxamide imidazole salt (1.55 g, 3 mmoles) and 20% palladium on carbon (0.5 g) in acetic acid (250 mls) is shaken under hydrogen (50 psig) in a Parr apparatus at 40° C. After 19 hours an additional 0.5 g of catalyst and acetic acid (250 mls) are added and shaking continued at 50° C. for 33 hours. The catalyst is filtered from the cooled mixture and rinsed with acetic acid. The filtrate is stripped of solvent under reduced pressure to leave the crystalline product. Recrystallization from methanol gave the pure 3-(1-methylethoxy)-5-methoxy-6-hydroxy-N-lH-tetrazol-5-yl-benzo[b]thiophene-2-carboxamide (0.3 g): mp=245° C. (dec).

reactant | 3-(1-methylethoxy)-5-methoxy-6(phenylmethoxy)-N-1H-tetrazol-5-yl-benzo[b]thiophene2-carboxamide imidazole salt | 3 mmoles, 1.55 g | N1C=NC=C1.CC(C)OC=1C2=C(SC1C(=O)NC1=NN=NN1)C=C(C(=C2)OC)OCC2=CC=CC=C2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | acetic acid | 250 mls | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 mls | C(C)(=O)O | C2H4O2
product | 3-(1-methylethoxy)-5-methoxy-6-hydroxy-N-lH-tetrazol-5-yl-benzo[b]thiophene-2-carboxamide | 0.3 g | CC(C)OC=1C2=C(SC1C(=O)NC1=NN=NN1)C=C(C(=C2)OC)O | C14H15N5O4S
